US07250410B2
1-ethyl-7,8-dimethoxy-5-[4-(2-phenylethyl)phenyl]-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbu.
Leave the following under hydrogen pressure (Patm) for 48 hours: 80 mg of 5-(1,1′-biphenyl-4-yl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbp), 16 mg of 10% palladium on charcoal (20% by weight of product to reduce), in 30 ml of methanol and 1 ml of CH2Cl2. Filter on celite, rinse several times with methanol. Evaporate to dryness. Purify by silica chromatography (AcOEt 1/hexane 1). Recrystallize in ether. One obtains 28 mg of the abovenamed product in the form of a white powder. Yield: 35%. M: 148–150° C. 1H-NMR (CDCl3, 200 MHz): d 1.27 (t, 3H, —CH3), 3.00 (s, 4H, 2×—CH2). 3,37–3,40 (m, 2H, CH2), 3.45–3.65 (m, 4H, —OCH3+1H NCH2), 3.92 (s, 3H, OCH3), 4.21–4.48 (m, 1H, NCH2), 6.22 (d, 1H Ar), 6.77 (d, 1H Ar), 7.19–7.39 (m, 9H Ar).

reactant | 5-(1,1′-biphenyl-4-yl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 80 mg | C1(=CC=C(C=C1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O)C2=CC=CC=C2 | C25H24N2O3
catalyst | palladium on charcoal | 16 mg | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-ethyl-7,8-dimethoxy-5-[4-(2-phenylethyl)phenyl]-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 28 mg, Yield: 35% | C(C)N1C(CN=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=C(C=C2)CCC2=CC=CC=C2)=O | C27H28N2O3
